2151-02-28 09:42:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Received 2U PRBC , 500cc of saline, 40 of lasix. Neo weaned to
   0.3mcg/kg from 1.
   Allergies:
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Doxycycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2151-2-28**] 05:52 AM
   Pantoprazole (Protonix) - [**2151-2-28**] 08:00 AM
   Other medications:
   colace, pantoprazole, simvastatin, tylenol.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-28**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 102 (93 - 115) bpm
   BP: 107/46(61) {69/39(53) - 137/108(112)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,010 mL
                                                                    812 mL
   PO:
             TF:
   IVF:
                                                                     35 mL
                                                                    812 mL
   Blood products:
                                                                    975 mL
   Total out:
                                                                    590 mL
                                                                    240 mL
   Urine:
                                                                    135 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    420 mL
                                                                    572 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.35/40/118/22/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : [**1-31**] of the way up
   bilaterally)
   Skin:  Not assessed, right hip dressing with clean dry and intact.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   226 K/uL
   160 mg/dL
   1.9 mg/dL
   22 mEq/L
   5.2 mEq/L
   56 mg/dL
   108 mEq/L
   141 mEq/L
   34.8 %
   18.6 K/uL
        [image002.jpg]
                             [**2151-2-27**]  09:06 PM
                             [**2151-2-28**]  01:21 AM
                             [**2151-2-28**]  05:33 AM
   WBC
   18.6
   Hct
   35.1
   34.8
   Plt
   226
   Cr
   1.8
   1.9
   TropT
   <0.01
   TCO2
   23
   Glucose
   156
   160
   Other labs: PT / PTT / INR:14.6/25.2/1.3, CK / CKMB /
   Troponin-T:1355/11/<0.01, Differential-Neuts:81.0 %, Band:1.0 %,
   Lymph:6.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Ca++:8.1
   mg/dL, Mg++:2.6 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR
   Assessment and Plan
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK):  perioperative blood
   loss, now impoved s/p 2U of PRBC, planning to wean off neo for goal MAP
   >60, wean O2 as tolerated. Will keep even, would be ginger with volume
   repletion due to her AS and DNI status. Would hold off on lasix given
   elevated creatinine.. will monitor creatinine, and urine output.
ARF: spin urine, check FEUN to assess for prerenal vs ATn.
Afib: holding off on anticoagulation, HR ok now in the 90s as she
   weans off neo wil likely resume bblocker slowly if HR >100. Once better
   from acute bleed will start ASA.
Pain: on tylenol, and small doses of morphine.
Px: will start s/c heparin one hct stable x 12hours. continue
   pneumoboots.
   ICU Care
   Nutrition:
   Comments: clear liquids with nursing monitoring.
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-2-27**] 08:48 PM
   22 Gauge - [**2151-2-27**] 08:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   ICU Attending Coverage
   I saw and examined the patient with the pulmonary fellow, the
   assessment and plan was discussed in detail.  I would emphasize the
   following.  Volume shifts postoperatively seems to be an issue.
   Transfused overnight with lasix.  Able to discontinue neo.
   Persistent crackles on exam bilaterally [**1-31**] way up.
   Urine output decreased, rising Cr.  Significant AS.
   Agree with conservative management, no active diuresis at this point as
   she is reasonably well compensated from a respiratory standpoint (on 3L
   NC).  No further active diuresis.
   Will continue and monitor in the ICU given severe AS.
   Time spent:  30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2151-2-28**] 13:43 ------

2151-03-01 11:33:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Weaned off neosynephrine. Creatinine plateaued at 2. hct dropped
   further transfused another unit of blood. Urine output improved w PRBC.
   Allergies:
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Doxycycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   colace, pantoprazole, simvastatin, tyelnol, heparin s/c [**Hospital1 **], senna.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-1**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 88 (79 - 104) bpm
   BP: 111/52(67) {100/37(56) - 138/81(86)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,034 mL
                                                                    279 mL
   PO:
                                                                    650 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,009 mL
                                                                     79 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    580 mL
                                                                    575 mL
   Urine:
                                                                    580 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,454 mL
                                                                   -296 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, umbillical hernia
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   178 K/uL
   118 mg/dL
   2.0 mg/dL
   24 mEq/L
   4.8 mEq/L
   58 mg/dL
   104 mEq/L
   137 mEq/L
   34.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2151-2-27**]  09:06 PM
                             [**2151-2-28**]  01:21 AM
                             [**2151-2-28**]  05:33 AM
                             [**2151-2-28**]  04:07 PM
                             [**2151-3-1**]  04:22 AM
   WBC
   18.6
   16.7
   17.5
   14.8
   Hct
   35.1
   34.8
   29.4
   34.6
   Plt
   [**Telephone/Fax (3) 12966**]78
   Cr
   1.8
   1.9
   2.1
   2.0
   TropT
   <0.01
   TCO2
   23
   Glucose
   156
   160
   154
   118
   Other labs: PT / PTT / INR:15.9/29.9/1.4, CK / CKMB /
   Troponin-T:1355/11/<0.01, Differential-Neuts:84.7 %, Band:1.0 %,
   Lymph:7.9 %, Mono:6.7 %, Eos:0.4 %, Lactic Acid:2.1 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR stable slighly rotated.
   Microbiology: no new
   Assessment and Plan
 FRACTURE, OTHER: contule PT, continue heparin prphylaxis, pain well
   controlled with standing tylenol.
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK): now s/p 3U PRBC, hct
   trend down overnight required another unit of PRBC. Will continue to
   monitor hct and urine output. Will hold off on any active diuresis or
   agressive volume resusictation and allow her to requilibrate and
   self-replete fluids orally.
AS: will start low dose bblocker.
AFib: d/w ortho re starting full dose aspirin in am.. if hct
   stablizes.
   ICU Care
   Nutrition:
   Comments: regular diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-2-27**] 08:48 PM
   22 Gauge - [**2151-2-27**] 08:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Addendum:
   Attending Note: I saw and examined the patient, and was physically
   present with Dr. [**First Name (STitle) 10164**] for the key portions of the services provided.
   I agree with the note above, including the assessment and plan. I would
   emphasize and add the following points:
   Lovely [**Age over 90 2437**] yr old woman with severe aortic stenosis s/p ORIF for hip
   fracture, now with acute blood loss anemia, requiring several
   transfusions of prbc. Despite appropriate increases in Hct after
   transfusion she has had acute decreases by 5 points, including today.
   She is also at high risk of acute CHF given her aortic stenosis. Thus
   far, has tolerated fluids well. She has acute renal failure with creat
   of 2.0 from baseline 1.3. Urine output appears to be picking up now.
   Exam is notable for MAP 56-86, hard of hearing, awake, alert, bilat
   breath sounds without crackles. Agree with starting low dose beta
   blocker. Per ortho, SCH restarted but would hold on aspirin for now
   given drop in hematocrit. DNR/DNI yet critically ill. Time 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2151-3-1**] 17:55 ------

2151-03-02 11:47:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Hct stable.
   Received ambien and morphine overnight for insomnia. This AM was
   confused but not agitated.
   Allergies:
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Codeine
   Fosamax (Oral) (Alendronate Sodium)
   Darvon (Oral) (Propoxyphene Hcl)
   Doxycycline
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-2**] 08:21 AM
   Other medications:
   colace, protonix, simvastatin, tylenol, heparin [**Hospital1 **], metoprolol,
   ambien, morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-2**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 89 (77 - 101) bpm
   BP: 101/57(65) {97/35(53) - 125/59(80)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    519 mL
                                                                    240 mL
   PO:
                                                                    440 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,027 mL
                                                                    356 mL
   Urine:
                                                                  1,027 mL
                                                                    356 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -508 mL
                                                                   -116 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, ventral hernia
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   195 K/uL
   112 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.8 mEq/L
   58 mg/dL
   105 mEq/L
   139 mEq/L
   32.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2151-2-27**]  09:06 PM
                             [**2151-2-28**]  01:21 AM
                             [**2151-2-28**]  05:33 AM
                             [**2151-2-28**]  04:07 PM
                             [**2151-3-1**]  04:22 AM
                             [**2151-3-1**]  03:23 PM
                             [**2151-3-1**]  08:39 PM
                             [**2151-3-2**]  03:35 AM
   WBC
   18.6
   16.7
   17.5
   14.8
   12.7
   Hct
   35.1
   34.8
   29.4
   34.6
   30.9
   31.5
   32.8
   Plt
   [**Telephone/Fax (3) 12966**]78
   195
   Cr
   1.8
   1.9
   2.1
   2.0
   1.8
   1.6
   TropT
   <0.01
   TCO2
   23
   Glucose
   156
   160
   154
   118
   164
   112
   Other labs: PT / PTT / INR:14.9/35.9/1.3, CK / CKMB /
   Troponin-T:1355/11/<0.01, Differential-Neuts:80.7 %, Band:1.0 %,
   Lymph:12.7 %, Mono:5.1 %, Eos:1.3 %, Lactic Acid:2.1 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: none
   Assessment and Plan
 RESPIRATION / GAS EXCHANGE, IMPAIRED: weaned off O2, resolved mild
   pulmonary edema/post op atelectasis
 FRACTURE, OTHER: continue PT
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK): resolved off
   pressors, renal function improving
Prerenal azotemia: improved.
Afib: titrate up bblocker to 25, can likely switch to long-acting
   prior to d/c, restart Aspirin 160mg daily.
AS: continue bblockade, appears well compensated now.
Anemia: stable hct. no further work up.
Altered mental status: likely d/t benzos and unfamiliar environment
   Consult case managment.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-2-27**] 08:48 PM
   22 Gauge - [**2151-2-27**] 08:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2151-03-03 11:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 2437**] yo woman w/ severe AS s/p R fem ORIF, admitted w/ postop
   hypotension
   24 Hour Events:
   agitation o/n- responded to 2.5mg Zyprexa and 5mg Ambien.
   History obtained from Patient
   Allergies:
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Doxycycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Colace, Protonix, Zocor, Tylenol q8 sched, heparin sc, ambien, ASA,
   metop [**Hospital1 **], prn MSO4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-3**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 86 (84 - 111) bpm
   BP: 97/49(62) {88/47(55) - 136/103(108)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
                  Total In:
                                                                    580 mL
                                                                    440 mL
   PO:
                                                                    580 mL
                                                                    440 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    721 mL
                                                                    500 mL
   Urine:
                                                                    721 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -141 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur:
   Systolic), RUSB 2+ SEM transmitted to apex and carotid
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   250 K/uL
   126 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.8 mEq/L
   56 mg/dL
   104 mEq/L
   137 mEq/L
   34.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2151-2-27**]  09:06 PM
                             [**2151-2-28**]  01:21 AM
                             [**2151-2-28**]  05:33 AM
                             [**2151-2-28**]  04:07 PM
                             [**2151-3-1**]  04:22 AM
                             [**2151-3-1**]  03:23 PM
                             [**2151-3-1**]  08:39 PM
                             [**2151-3-2**]  03:35 AM
                             [**2151-3-3**]  06:46 AM
   WBC
   18.6
   16.7
   17.5
   14.8
   12.7
   12.3
   Hct
   35.1
   34.8
   29.4
   34.6
   30.9
   31.5
   32.8
   34.2
   Plt
   [**Telephone/Fax (3) 12966**]78
   195
   250
   Cr
   1.8
   1.9
   2.1
   2.0
   1.8
   1.6
   1.3
   TropT
   <0.01
   TCO2
   23
   Glucose
   156
   160
   154
   118
   164
   112
   126
   Other labs: PT / PTT / INR:13.0/27.8/1.1, CK / CKMB /
   Troponin-T:1355/11/<0.01, Differential-Neuts:80.7 %, Band:1.0 %,
   Lymph:12.7 %, Mono:5.1 %, Eos:1.3 %, Lactic Acid:2.1 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: UA- neg
   Assessment and Plan
 FRACTURE, OTHER: continue PT
Afib: titrate up bblocker to 25, can likely switch to long-acting
   prior to d/c, restart Aspirin 160mg daily.
 RESPIRATION / GAS EXCHANGE, IMPAIRED: resolved
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK): resolved
Prerenal azotemia: resolved
AS: continue bblockade, appears well compensated now.
Anemia: stable hct. no further work up.
Altered mental status: likely d/t benzos and unfamiliar environment
   Consult case managment.
   ICU Care
   Nutrition:
   Comments: tols po
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-2-27**] 08:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes